US08461270B2
30 g (0.18 mol) of fluorene was placed in a 1 L glass vessel, to which a mixed solution of 175 mL of ethylenediamine and 175 mL of THF was added under a nitrogen atmosphere, and dissolved by stirring. 5.6 g (0.812 mol) of metallic lithium was added to the resulting solution at 0° C. over 50 minutes. After completing the reaction, water was added thereto, and the target compound was extracted with diethyl ether and rinsed with a sodium chloride aqueous solution. Magnesium sulfate was added to the diethyl ether layer, which was dried in a refrigerator overnight. Magnesium sulfate was filtered off, and diethyl ether was removed to provide 27.6 g of 1,2,3,4-tetrahydrofluorene (4HFluH) as an orange solid matter (yield: 90%).

reactant | fluorene | 0.18 mol, 30 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | ethylenediamine | 175 mL | C(CN)N | C2H8N2
reactant | THF | 175 mL | C1CCOC1 | C4H8O
reactant | lithium | 0.812 mol, 5.6 g | [Li] | Li
solvent | water | O | H2O
product | 1,2,3,4-tetrahydrofluorene | 27.6 g, yield: 90% | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
